US08283353B2
4′-{[2-methyl-4-(6-methyltetrahydro-2H-pyran-3-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (0.89 g) and 5-methyl-N-(6-methyltetrahydro-2H-pyran-3-yl)-4H-1,2,4-triazol-3-amine (0.25 g) was stirred at 250° C. for 20 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.18 g, 30%).

reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 0.89 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 5-methyl-N-(6-methyltetrahydro-2H-pyran-3-yl)-4H-1,2,4-triazol-3-amine | 0.25 g | CC=1NC(=NN1)NC1COC(CC1)C | C9H16N4O
product | 4′-{[2-methyl-4-(6-methyltetrahydro-2H-pyran-3-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.18 g, 30% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C2COC(CC2)C)=N1 | C29H31N5O2
